US04590192
6-Propionamido-3-ethoxy-benzoisothiazole-1,1-dioxide
Following the procedures outlined in Description 4a, 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide was reacted with propionic anhydride to give the title compound.

reactant | 6-amino-3-ethoxy-benzoisothiazole-1,1-dioxide | NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H10N2O3S
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 6-Propionamido-3-ethoxy-benzoisothiazole-1,1-dioxide | C(CC)(=O)NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C12H14N2O4S
